US05639778
(1-Chloro-6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)cyclobutylmethyl-propylamine. (10g, Chart2)
A solution of cyclobutylmethyl-propyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)amine 48 mg, 0.16 mmol) and N-chlorosuccinimide (35 mg, 0.26 mmol) in tetrahydrofuran (5 mL) was stirred at room temperature for 1 day. After pouring the reaction mixture into water, extraction (diethyl ether), drying (magnesium sulfate), filtering, and evaporation yielded 43 mg (80%) of the desired compound.:

reactant | cyclobutylmethyl-propyl-(6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)amine | 0.16 mmol, 48 mg | C1(CCC1)CN(C1CC2=C(C=3C=CNC3C=C2)CC1)CCC | C20H28N2
reactant | N-chlorosuccinimide | 0.26 mmol, 35 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (1-Chloro-6,7,8,9-tetrahydro-3H-benzo[e]indol-7-yl)cyclobutylmethyl-propylamine | 43 mg, 80% | ClC1=CNC=2C=CC3=C(C12)CCC(C3)N(CCC)CC3CCC3 | C20H27ClN2
